US04801705
(B) 1-(3,4-Dihydroxybenzoyl)-2-imidazolidinone
1-[3,4-Bis(acetyloxy)benzoyl]-2-imidazolidinone (11 g, 0.035 mol) was suspended in a mixture of 50 ml of ethanol and 50 ml of water, 4.2 ml (0.07 mol) of aqueous ammonia solution was added with stirring. After 15 minutes, a clear solution was formed, which was evaporated to a small volume. 1-(3,4-Dihydroxybenzoyl)-2-imidazolidinone crystallized out yielding 6.1 g of the title compound, melting point 208°-210° C.

reactant | 1-[3,4-Bis(acetyloxy)benzoyl]-2-imidazolidinone | 0.035 mol, 11 g | C(C)(=O)OC=1C=C(C(=O)N2C(NCC2)=O)C=CC1OC(C)=O | C14H14N2O6
reactant | ammonia | 0.07 mol, 4.2 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 1-(3,4-Dihydroxybenzoyl)-2-imidazolidinone | 6.1 g | OC=1C=C(C(=O)N2C(NCC2)=O)C=CC1O | C10H10N2O4
